US06083943
(24) (2S*,3S*,5S*)-5-Hydroxymethyl-3-[N-(2-methoxy-5-trifluoromethoxybenzyl)amino]-2-phenylpiperidine
To a solution of (2S*,3S*,5S*)-1-benzyloxycarbonyl-5-hydroxymethyl-3-[-N-(2-methoxy-5-trifluoromethoxybenzyl)amino]-2-phenylpiperidine (0.545 g, 1.00 mmol) and HCO2NH4 (0.252 g, 4.00 mmol) in MeOH (15.0 ml) was added 20% Pd(OH)2 /C (0.159 g) in one portion. The mixture was stirred and heated at reflux for 30 minutes. The catalyst was filtered off by the aid of Celite, and washed with MeOH. The combined filtrate and washings were concentrated in vacuo to give a yellow syrupy residue, which was basified with IM NaOH aq. solution. The mixture was extracted CH2Cl2, and the combined CH2Cl2 extracts were dried (Na2SO4), and concentrated in vacuo to give a pale yellow oil (0.419 g). This was flash chromatographed over SiO2 (Merck Kieselgel 60, 4.0 g). Elution with CH2Cl2 --MeOH (30:1/20:1) gave title compound (0.380 g, 92.7%) as a yellow oil. IRmax (film): 3320(br., s), 1608(m), 1498(s), 1487(s), 1230(br., s), 1160(br., s), 1030(s), 810(m), 740(m), 700(s) cm-1 ; 1H-NMR δ: 7.40-7.20(m, 5H), 6.99(dd, J=8.8, 2.9 Hz, 1H), 6.85(d, J=2.9 Hz, 1H), 6.63(d, J=8.8 Hz, 1H), 3.86(d, J=2.2 Hz, 1H), 3.64(d, J=14.5 Hz, 1H), 3.60-3.47(m, 2H), 3.50(s, 3H), 3.46-3.36(m, 1H), 3.38(d, J=14.5 Hz, 1H), 2.92-2.84(m, 1H), 2.54(dd, J=1.5, 11.5 Hz, 1H), 2.28-2.10(m, 1H), 2.12(dm, J=12.9 Hz, 1H), 1.69(br.s, 3H; NH×2+OH), 1.35(ddd, J=12.9, 12.9, 2.8 Hz, 1H) ppm.

reactant | (2S*,3S*,5S*)-1-benzyloxycarbonyl-5-hydroxymethyl-3-[-N-(2-methoxy-5-trifluoromethoxybenzyl)amino]-2-phenylpiperidine | 1.00 mmol, 0.545 g | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H](C[C@@H](C1)CO)NCC1=C(C=CC(=C1)OC(F)(F)F)OC)C1=CC=CC=C1 | C29H31F3N2O5
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | 15.0 ml | CO | CH4O
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | (2S*,3S*,5S*)-5-Hydroxymethyl-3-[N-(2-methoxy-5-trifluoromethoxybenzyl)amino]-2-phenylpiperidine | 0.419 g | OC[C@H]1C[C@@H]([C@@H](NC1)C1=CC=CC=C1)NCC1=C(C=CC(=C1)OC(F)(F)F)OC | C21H25F3N2O3
